US04352795
A suspension of 240 mg of sodium hydride, 1.54 g of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine, and 6 ml of dry dimethylformamide (DMF) is stirred at 50° C. for 15 minutes, cooled, and added to 4.83 g of 2,3,5-tri-O-benzyl-α-D-arabinofuranosyl chloride in 4 ml of DMF. The solution is stirred at ambient temperature for two hours, concentrated in vacuo, and distributed between a mixture of ethyl acetate-water. Chromatography of the dried ethyl acetate layer over silica gel with 4:1 benzene-ethyl acetate provides 3.3 g of yellow, syrupy 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine.

reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 1.54 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 2,3,5-tri-O-benzyl-α-D-arabinofuranosyl chloride | 4.83 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)Cl | C26H27ClO4
solvent | DMF | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H30ClN3O4
